US07501425B1
1-Cyclopentyl-7-(4-methoxyphenylamino)-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one
A solution of 300 mg (1.07 mmol) of 1-cyclopentyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one, 527 mg (4.28 mmol) of p-anisidine, and 1.5 mL of dimethyl sulfoxide is heated at 130° C. for 30 hours, then cooled and diluted with ethyl acetate. The mixture is washed three times with aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated. The residual solids are washed with 9:1:0.1:0.1 chloroform/ethyl acetate/ethanol/triethylamine then with chloroform, and suspended in 150 mL of 7:3 chloroform/methanol. The suspension is diluted with 20 mL of hexane, stirred for 3 hours, and filtered to afford 88 mg (24%) of the title compound as an off-white powder: mp 247-249° C. (dec).

reactant | 1-cyclopentyl-7-methanesulfinyl-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 1.07 mmol, 300 mg | C1(CCCC1)N1C(NCC=2C1=NC(=NC2)S(=O)C)=O | C12H16N4O2S
reactant | p-anisidine | 4.28 mmol, 527 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | dimethyl sulfoxide | 1.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Cyclopentyl-7-(4-methoxyphenylamino)-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 88 mg, 24% | C1(CCCC1)N1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)OC)=O | C18H21N5O2
